US04096280
(a) 4-(3-Bromopropyloxy)phenol.
A mixture of 88.0 g. (0.80 m.) of hydroquinone, 161.6 g. (0.80 m.) of 1,3-dibromopropane and 55.2 g. (0.40 m.) of potassium carbonate in 2 liters of 2-butanone was heated at reflux for 24 hours. The reaction mixture was filtered and the filtrate concentrated in vacuo. The solid and liquid phases of the residue were separated, and the liquid fraction was chromatographed on silica gel using chloroform-acetonitrile (95:5) as the eluant. There was thus obtained 37.2 g. of 4-(3-bromopropyloxy)phenol as a light brown oil which was used directly in the next reaction.

reactant | hydroquinone | C1(O)=CC=C(O)C=C1 | C6H6O2
reactant | 1,3-dibromopropane | BrCCCBr | C3H6Br2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | 2-butanone | 2 liters | CC(CC)=O | C4H8O
product | 4-(3-Bromopropyloxy)phenol | BrCCCOC1=CC=C(C=C1)O | C9H11BrO2
